US05376552
To a solution of 3 g of p-xylenol and 4.6 g of o-sulfobenzoic anhydride in 15 ml of dichloroethane was added dropwise 3.7 g of trifluoromethanesulfonic acid at 50° C., and the reaction was carried out with stirring at 50° C. for another 3 hours. After completion of the reaction, 70 ml of water was added to the reaction solution and the resulting solution was neutralized with NaOH, after which the aqueous layer was separated and then concentrated under reduced pressure. The resulting residue was purified by a silica gel chromatography (packing: Wakogel C-200 (trade name, mfd. by Wako Pure Chemical Industries, Ltd.), eluent: a mixed solvent of chloroform and methanol] to obtain 2 g of sodium 2-(4-hydroxy-2,5-dimethylbenzoyl)benzenesulfonate.

reactant | p-xylenol | 3 g | C1(CC=C(C=C1)C)(C)O | C8H12O
reactant | o-sulfobenzoic anhydride | 4.6 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
reactant | trifluoromethanesulfonic acid | 3.7 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | [OH-].[Na+]
solvent | dichloroethane | 15 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 70 ml | O | H2O
product | sodium 2-(4-hydroxy-2,5-dimethylbenzoyl)benzenesulfonate | 2 g | OC1=CC(=C(C(=O)C2=C(C=CC=C2)S(=O)(=O)[O-])C=C1C)C.[Na+] | InChI=1S/C15H14O5S.Na/c1-9-8-13(16)10(2)7-12(9)15(17)11-5-3-4-6-14(11)21(18,19)20;/h3-8,16H,1-2H3,(H,18,19,20);/q;+1/p-1
